US06635657B1
B. N-(5-Chloropyridin-2-yl)-2-aminobenzamide
To a solution of N-(5-chloropyridin-2-yl)-2-nitrobenzamide (2 g, 7.2 mmol) in THF (50 mL) and ethyl acetate (50 mL) was added Raney Ni (0.2 g) and the mixture was placed under hydrogen (4.1 bar) in a high pressure apparatus. After shaking overnight, the mixture was filtered and concentrated in vacuo and purified by flash chromatography to give 1.5 g (83%) of an off-white solid.

reactant | N-(5-chloropyridin-2-yl)-2-nitrobenzamide | 7.2 mmol, 2 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H8ClN3O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Ni | 0.2 g | [Ni] | Ni
product | N-(5-Chloropyridin-2-yl)-2-aminobenzamide | 1.5 g, 83% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
